* c:\users\roshan\esim-workspace\ksa8\ksa8.cir

* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ net-_u11-pad17_ net-_u11-pad18_ net-_u11-pad19_ net-_u11-pad20_ net-_u11-pad21_ net-_u11-pad22_ net-_u11-pad23_ net-_u11-pad24_ net-_u11-pad25_ ksa8
* u18  1 2 3 4 5 6 7 8 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ adc_bridge_8
* u19  9 10 11 12 13 14 15 16 net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ adc_bridge_8
* u20  net-_u11-pad17_ net-_u11-pad18_ net-_u11-pad19_ net-_u11-pad20_ net-_u11-pad21_ net-_u11-pad22_ net-_u11-pad23_ net-_u11-pad24_ o1 o2 o3 o4 o5 o6 o7 o8 dac_bridge_8
* u21  net-_u11-pad25_ o9 dac_bridge_1
v1  1 gnd pulse(5 0 1m 1m 1m 20 40)
v2  2 gnd pulse(5 0 1m 1m 1m 50 80)
v3  3 gnd pulse(5 0 1m 1m 1m 40 80)
v4  4 gnd pulse(0 5 1m 1m 1m 80 160)
v5  5 gnd pulse(5 0 1m 1m 1m 20 40)
v6  6 gnd pulse(5 0 1m 1m 1m 60 100)
v7  7 gnd pulse(5 0 1m 1m 1m 40 80)
v8  8 gnd pulse(5 0 1m 1m 1m 80 160)
v9  9 gnd pulse(5 0 1m 1m 1m 40 40)
v10  10 gnd pulse(5 0 1m 1m 1m 80 80)
v11  11 gnd pulse(5 0 1m 1m 1m 120 160)
v12  12 gnd pulse(5 0 1m 1m 1m 40 80)
v13  13 gnd pulse(5 0 1m 1m 1m 160 160)
v14  14 gnd pulse(5 0 1m 1m 1m 80 80)
v15  15 gnd pulse(5 0 1m 1m 1m 40 40)
v16  16 gnd pulse(0 5 1m 1m 1m 100 160)
* u3  3 plot_v1
* u1  2 plot_v1
* u5  4 plot_v1
* u7  5 plot_v1
* u6  14 plot_v1
* u8  13 plot_v1
* u4  15 plot_v1
* u2  16 plot_v1
* u12  7 plot_v1
* u9  6 plot_v1
* u14  8 plot_v1
* u16  9 plot_v1
* u15  10 plot_v1
* u13  11 plot_v1
* u10  12 plot_v1
* u17  1 plot_v1
* u23  o2 plot_v1
* u22  o1 plot_v1
* u25  o4 plot_v1
* u24  o3 plot_v1
* u27  o6 plot_v1
* u26  o5 plot_v1
* u29  o8 plot_v1
* u28  o7 plot_v1
* u30  o9 plot_v1
a1 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ ] [net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ ] [net-_u11-pad17_ net-_u11-pad18_ net-_u11-pad19_ net-_u11-pad20_ net-_u11-pad21_ net-_u11-pad22_ net-_u11-pad23_ net-_u11-pad24_ ] [net-_u11-pad25_ ] u11
a2 [1 2 3 4 5 6 7 8 ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ ] u18
a3 [9 10 11 12 13 14 15 16 ] [net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ ] u19
a4 [net-_u11-pad17_ net-_u11-pad18_ net-_u11-pad19_ net-_u11-pad20_ net-_u11-pad21_ net-_u11-pad22_ net-_u11-pad23_ net-_u11-pad24_ ] [o1 o2 o3 o4 o5 o6 o7 o8 ] u20
a5 [net-_u11-pad25_ ] [o9 ] u21
* Schematic Name:                             ksa8, NgSpice Name: ksa8
.model u11 ksa8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u20 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u21 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(3)
plot v(2)
plot v(4)
plot v(5)
plot v(14)
plot v(13)
plot v(15)
plot v(16)
plot v(7)
plot v(6)
plot v(8)
plot v(9)
plot v(10)
plot v(11)
plot v(12)
plot v(1)
plot v(o2)
plot v(o1)
plot v(o4)
plot v(o3)
plot v(o6)
plot v(o5)
plot v(o8)
plot v(o7)
plot v(o9)
.endc
.end
